US05677321
5-Amino-7-chlorobenzothiazole
To a solution of SnCl2.2H2O (0.5 g, 2.2 mmol) in 5 mL of HCl was added 5-nitro-7-chlorobenzothiazole (0.12 mg, 0.56 mmol) in a portion and the resulting reaction mixture was stirred for 1 h at 25° C. The reaction mixture was basified with aq. NaOH and extracted with EtOAc. Organic extracts were dried over Na2SO4 and concentrated in vacuo to yield 110 mg (0.54 mmol, >95%) of the desired product.

reactant | SnCl2.2H2O | 2.2 mmol, 0.5 g | O.O.Cl[Sn]Cl
reactant | 5-nitro-7-chlorobenzothiazole | 0.56 mmol, 0.12 mg | [N+](=O)([O-])C=1C=C(C2=C(N=CS2)C1)Cl | C7H3ClN2O2S
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 5 mL | Cl | ClH
product | 5-Amino-7-chlorobenzothiazole | 0.54 mmol, 110 mg, >95% | NC=1C=C(C2=C(N=CS2)C1)Cl | C7H5ClN2S
